US06002008
N-[4-[(3-Bromophenyl)amino]-3-cyano-6-quinolinyl]acetamide
Triethylamine (0.359 g, 3.55 mmol) and acetyl chloride (0.277 mg, 3.55 mmol) were added to an ice cold solution of 1.00 g (2.96 mmol) of 6-amino-4-[(3-bromophenyl)-amino]-3-quinolinecarbonitrile in 8 mL of methylene chloride and 6 mL of tetrahydrofuran under N2. After stirring overnight at 25° C., volatile material was removed, and the residue was slurried with water and collected. Recrystallization from ethanol gave 0.543 g of brown solid; mp 258-261° C.(dec).

reactant | Triethylamine | 3.55 mmol, 0.359 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 3.55 mmol, 0.277 mg | C(C)(=O)Cl | C2H3ClO
reactant | 6-amino-4-[(3-bromophenyl)-amino]-3-quinolinecarbonitrile | 2.96 mmol, 1.00 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Br | C16H11BrN4
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | N-[4-[(3-Bromophenyl)amino]-3-cyano-6-quinolinyl]acetamide | 0.543 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(C)=O)C#N | C18H13BrN4O
